US07091227B2
2-Amino-6-benzyl-benzothiazole
A solution of 4-benzylaniline (0.916 g, 5.00 mmol) and KSCN (0.97 g, 10.0 mmol, 2.0 eq) in 10 mL acetic acid was cooled at about 5° C., and was treated dropwise with a solution of bromine (0.258 mL, 5.00 mmol, 1.0 eq) in 2 mL acetic acid. The mixture was stirred at room temperature for about 1 hour. The precipitate was filtered off and washed with Et2O. The obtained solid was neutralized with saturated sodium carbonate solution, and a new precipitate was formed. It was filtered off, washed with water and MeOH, and dried under vacuum to give the desired compound 1.06 g (88%). LC/MS 241.2 (M+1); LC retention time 2.46 min.

reactant | 4-benzylaniline | 5.00 mmol, 0.916 g | C(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C13H13N
reactant | KSCN | 10.0 mmol, 0.97 g, 2.0 eq | C(#N)[S-].[K+]
reactant | bromine | 5.00 mmol, 0.258 mL, 1.0 eq | BrBr | Br2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | 2-Amino-6-benzyl-benzothiazole | 1.06 g, 88% | NC=1SC2=C(N1)C=CC(=C2)CC2=CC=CC=C2 | C14H12N2S
